US04925853
2,3-Diamino-4-hydroxy-5-tert-butyltoluene
A solution of 2,3-dinitro-4-hydroxy-5-tert-butyltoluene (Description 10) (7.5 g) in ethanol (350 ml) was hydrogenated at room temperature and atmospheric pressure over 10% palladium-carbon (2.5 g) until uptake of hydrogen ceased. The solution was filtered under nitrogen and evaporated to dryness in vacuo to afford the unstable title compound, m.p. 129°-136° C., which was used immediately for the next reaction.

reactant | 2,3-dinitro-4-hydroxy-5-tert-butyltoluene | 7.5 g | [N+](=O)([O-])C1=C(C=C(C(=C1[N+](=O)[O-])O)C(C)(C)C)C | C11H14N2O5
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 350 ml | C(C)O | C2H6O
catalyst | palladium-carbon | 2.5 g | [C].[Pd]
product | 2,3-Diamino-4-hydroxy-5-tert-butyltoluene | NC1=C(C=C(C(=C1N)O)C(C)(C)C)C | C11H18N2O
